US05096919
A mixture of 4.0 g of p-aminophenol and 4.0 g of acetonylacetone is heated under reflux in toluene for 3 hours using a Dean Stark water separator to yield 4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenol. Condensation with ethyl alpha-bromoisobutyrate in ethyl alcohol in the presence of potassium carbonate gives ethyl 2-[4-(2,5-di-methyl-1H-pyrrol-1-yl)-phenoxy]-2-methylpropanoate. Hydrolysis with 1.5 N sodium hydroxide solution yields 2-[4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenoxy]-2-methyl-propanoic acid, m.p. 178°-180°.

reactant | p-aminophenol | 4.0 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | acetonylacetone | 4.0 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(2,5-dimethyl-1H-pyrrol-1-yl)-phenol | CC=1N(C(=CC1)C)C1=CC=C(C=C1)O | C12H13NO
